US06576766B1
(a) Benzyl 5-Formyl-6-hydroxy-2-naphthoate
To a suspension of 5-formyl-6-hydroxy-2-naphthoic acid (1.12 g, 5.18 mmol) in 7.3 mL DMF at rt under N2 was added 569 mg (5.69 mmol) of KHCO3 and 1.11 mL (9.32 mmol) of benzyl bromide. The mixture was stirred for 3 days, at which point it was diluted with H2O and extracted with EtOAc. The extract was washed with saturated aqueous NaHCO3, dried over MgSO4 and concentrated in vacuo. The crude material was purified by flash chromatography on silica gel, using 85:15 hexanes-EtOAc as the eluent, to give 410 mg (25%).

reactant | 5-formyl-6-hydroxy-2-naphthoic acid | 5.18 mmol, 1.12 g | C(=O)C1=C2C=CC(=CC2=CC=C1O)C(=O)O | C12H8O4
reactant | benzyl bromide | 9.32 mmol, 1.11 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 7.3 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | Benzyl 5-Formyl-6-hydroxy-2-naphthoate | C(=O)C1=C2C=CC(=CC2=CC=C1O)C(=O)OCC1=CC=CC=C1 | C19H14O4
